US05530026
Preparation of 6-[3-(2-chloroethyl)ureido]indazole
To a solution of 2 g of 6-aminoindazole in 125 mL of anhydrous ethanol is added, in a dropwise manner, 1.25 g of 2-chloroethyl isocyanate. This solution is stirred for 16 h at room temperature, cooled at °20° C., and filtered. A white solid separated and was recrystallized from ethanol, yield 30%, mp 253°-258° C. 1H NMR (DMSO-d6 : CDCl3): 8.12 ppm, 7.56 ppm, 7.44 ppm, 7.25 ppm, 7.12 ppm, 7.08 ppm, 6.43 ppm, 6.39 ppm, 6.01 ppm, 5.98 ppm, 5.96 ppm, 3.42 ppm, 3.4 ppm, 3.39 ppm, 3.54 ppm, 3.26 pm, 3.23 ppm, 3.2 ppm, 3.17 ppm, 3.14 ppm, 3.12 ppm, 3.09 ppm, 3.05 ppm, 3.04 ppm, 3.04 ppm.

reactant | 6-aminoindazole | 2 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | 2-chloroethyl isocyanate | 1.25 g | ClCCN=C=O | C3H4ClNO
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 6-[3-(2-chloroethyl)ureido]indazole | yield 30% | ClCCNC(NC1=CC=C2C=NNC2=C1)=O | C10H11ClN4O
